US08563583B2
A. (R)-1-(3-methoxy-4-(oxiran-2-ylmethoxy)phenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one
A mixture of 1-(4-hydroxy-3-methoxyphenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one Part B of Procedure 14 (38 mg, 0.105 mmol) and cesium fluoride (48 mg, 0.32 mmol) in DMF (1 mL) was stirred at RT for 30 min. Then, (R)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (35 mg, 0.13 mmol) was added and stirred overnight at RT. Diluted with DCM, washed with water, sat. NaHCO3, dried (Na2SO4), and concentrated. The crude was purified using ISCO flash chromatography (silica gel/hexanes/ethyl acetate 100:0 to 0:100 gradient) to afford the desired product (R)-1-(3-methoxy-4-(oxiran-2-ylmethoxy)phenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one 15A (32.1 mg, 0.08 mmol, 73.1% yield) as a light yellow solid. LC/MS 418 (M+H)+, tR 0.93 min (method 5).

reactant | 1-(4-hydroxy-3-methoxyphenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one | OC1=C(C=C(C=C1)N1C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)OC | C19H14F3NO3
reactant | cesium fluoride | 0.32 mmol, 48 mg | [F-].[Cs+]
reactant | (R)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 0.13 mmol, 35 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@@H]1OC1 | C9H9NO6S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-methoxy-4-(oxiran-2-ylmethoxy)phenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one | 0.08 mmol, 32.1 mg, 73.1% yield | COC=1C=C(C=CC1OC[C@@H]1OC1)N1C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H18F3NO4
